* Z:\mnt\design.r\spice\examples\1116.asc
V1 +V 0 5
XU1 +V N003 N001 0 0 0 N002 OUT LT1116
R1 N002 N001 2K
C1 N001 0 24p
R2 +V N003 1K
R3 N003 0 1K
C§Y1 N002 N003 .32p Rser=45 Lser=.78m Cpar=18p
.tran 50u startup
* Single Supply Crystal Oscillator 10MHz to 15MHz
.lib LTC.lib
.backanno
.end
