* Z:\mnt\design.r\spice\examples\1121.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
R1 N001 0 10K
R2 OUT N001 10K
Rload OUT 0 100
XU1 OUT N001 0 MP_01 NC_02 MP_03 MP_04 IN LT1121
.tran 1
* Note Abs. Max SHDN pin voltage 6.5
.lib LT1121.lib
.backanno
.end
