* Z:\mnt\design.r\spice\examples\1144.asc
V1 IN 0 15
C1 OUT 0 10µ
C2 N002 N005 10µ
XU1 N001 N002 0 N005 OUT N004 N003 IN LTC1144
Rload OUT 0 244
.tran 100m
.lib LTC1144.sub
.backanno
.end
