* Z:\mnt\design.r\spice\examples\1151.asc
V1 +V 0 15
R1 N002 N001 1K
R2 N001 0 1Meg
V3 IN- IN+ SINE(0 1m 100)
R3 N003 N002 1K
R4 OUT N003 1Meg
V2 IN+ 0 SINE(0 1 10)
XU1 IN- N001 +V -V N002 LTC1151
XU2 IN+ N003 +V -V OUT LTC1151
V4 -V 0 -15
.tran .3
* High Voltage Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
