* Z:\mnt\design.r\spice\examples\1152.asc
V1 +V 0 5
V2 -V 0 -5
V3 IN 0 SINE(0 5 1K)
XU1 IN OUT +V -V OUT NC_01 NC_02 NC_03 LTC1152
.tran 3m
.lib LTC.lib
.backanno
.end
