* Z:\mnt\design.r\spice\examples\1166.asc
Q1 N013 N015 N017 0 2N2222
Q2 N015 N016 N018 0 2N2222
Q3 N005 N004 N003 0 2N2907
Q4 N004 N002 N001 0 2N2907
R1 N003 N002 100
R2 N017 N016 100
R3 N004 N015 5.6K
R4 N010 N009 4K
V1 N009 0 SINE(0 1 1K)
R5 N001 N003 47
R6 N018 N017 47
M§Q5 N001 N006 N007 N007 IRF530
R7 N006 N005 100
V2 N001 0 15
C1 0 N005 300p
R8 N007 OUT .33
R9 OUT N012 .33
M§Q6 N018 N014 N012 N012 IRF9Z24S_L
R10 N014 N013 100
C2 0 N013 300p
C3 N008 OUT 1µ
C4 OUT N011 1µ
V3 N018 0 -15
R11 N011 N012 1K
R12 N007 N008 1K
Rload OUT 0 4
XU1 N005 N010 OUT N013 N012 N011 N008 N007 LT1166
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
.lib LTC.lib
.backanno
.end
