* Z:\mnt\design.r\spice\examples\1168.asc
V1 +V 0 10
V2 -V 0 -10
R1 N002 N004 1K
V3 N001 0 SINE(0 50m 1K)
XU1 N002 0 N001 -V 0 N003 +V N004 LT1168
.tran 3m
.lib LTC.lib
.backanno
.end
