* Z:\mnt\design.r\spice\examples\1173.asc
R1 N002 0 250K
R2 OUT N002 753K
L1 IN N001 100µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C1 OUT 0 100µ Rser=0.02
V1 IN 0 3
XU1 IN IN N001 0 0 MP_01 MP_02 N002 LT1173 top=1K bot=1T
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100m startup
.lib LT1173.sub
.backanno
.end
