* Z:\mnt\design.r\spice\examples\1175.asc
XU1 IN IN OUT OUT 0 N001 IN LT1175
V1 IN 0 -5
Rload 0 OUT 100
C1 0 OUT 1µ Rser=1
.tran 1m startup
.lib LT1175.lib
.backanno
.end
