* Z:\mnt\design.r\spice\examples\1189.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N003 1K
R2 N003 0 111
V3 N001 0 SINE(0 1m 100K)
XU1 N001 0 +V -V N002 0 N003 +V LT1189
.tran 1m
.lib LTC.lib
.backanno
.end
