* Z:\mnt\design.r\spice\examples\1211.asc
V1 +V 0 15
R1 OUT N001 5K
R2 N001 0 5K
V3 IN 0 PWL(0 1 1 5)
XU1 IN N001 +V 0 OUT LT1211
XU2 N001 N003 +V 0 N002 LT1211
R3 N003 N002 1Meg
C1 N003 N002 22p
R4 N002 IN 1Meg
.tran 1
* Input Bias Current Cancellation
.lib LTC.lib
.backanno
.end
