* Z:\mnt\design.r\spice\examples\1215.asc
V1 +V 0 5
V2 IN- IN+ SINE(-250m 10m 100)
XU1 IN+ N003 +V 0 OUT LT1215
XU2 IN- N002 +V 0 N001 LT1215
R1 OUT N003 1020
R2 N001 N002 113
R3 N001 N003 113
R4 N002 0 1020
V3 IN+ 0 SINE(1.5 .5 10)
.tran .3
.lib LTC.lib
.backanno
.end
