* Z:\mnt\design.r\spice\examples\1218.asc
V1 +V 0 5
R1 N001 +V 200
XU1 N003 N001 +V 0 N002 NC_01 LT1218
M§Q1 OUT N002 N001 N001 BSS84
R2 +V N003 .2
I1 N003 0 SINE(100m 100m 1K)
R3 OUT 0 20K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
* Positive Supply Current Sense
.lib LTC.lib
.backanno
.end
