* Z:\mnt\design.r\spice\examples\1222.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 909
R2 N001 0 100
V3 IN 0 SINE(0 .2 1K)
XU1 IN N001 +V -V OUT NC_01 LT1222
.tran 3m
.lib LTC.lib
.backanno
.end
