* Z:\mnt\design.r\spice\examples\1223.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 1K
R2 N001 0 {Rg}
V3 IN 0 ac 1
XU1 IN N001 +V -V OUT LT1223
.ac oct 100 100K  1G
.step PARAM Rg list 10 33 110 470 1e308
.lib LTC.lib
.backanno
.end
