* Z:\mnt\design.r\spice\examples\1224.asc
V1 +V 0 15
V2 -V 0 -15
R1 OUT N001 619
XU1 0 N002 +V -V OUT LT1224
C2 OUT N002 100p
C3 0 N001 500p
R2 N002 N001 825
R3 N001 IN 619
V3 IN 0 ac 1
.ac oct 10 1K 100Meg
* 1MHz, 2nd Order Butterworth Filter
.lib LTC.lib
.backanno
.end
