* Z:\mnt\design.r\spice\examples\1228.asc
V1 N005 0 15
V2 N008 0 -15
R2 N001 0 270
XU1 N001 N004 N006 N008 N009 OUT N005 N002 LT1228
R3 N002 OUT 470
R4 0 N002 10
R5 N008 N010 1.24K
R6 N010 0 6.19K
R7 N010 N009 {R}
R1 N004 0 100
R8 N006 0 100
R9 N004 N003 10K
R10 N006 N007 10K
V3 N003 N007 SINE(0 .1 10K)
.tran 3m
.step param R list 10K 5K 2.5K 1.25K
.lib LTC.lib
.backanno
.end
