* Z:\mnt\design.r\spice\examples\1232.asc
V1 IN 0 5
V2 N002 0 PWL(0 0 1.2 0 +1u 1 +100u 1 +1u 0 1.3 0 +1u 1 +41m 1 +1u 0)
S1 0 N001 N002 0 SW_PB
XU1 N001 IN 0 0 OUT N005 N003 IN LTC1232
R2 IN N005 10K
R3 IN OUT 10K
V3 N003 N004 PULSE(0 3.3 0 1u 1u 20m 40m 6) Rser=0.1
V4 N004 0 PULSE(0 3.3 0.8 1u 1u 20m 40m) Rser=0.1
R1 IN N001 10K
.tran 2.1
.model SW_PB SW( Ron=1 Roff=10G Vt=0.5 Vh=-0.15 )
.lib LTC1232.sub
.backanno
.end
