* Z:\mnt\design.r\spice\examples\1248.asc
M§Q1 N002 N017 0 0 SPA11N60C3
C2 N011 N012 .047µ Rser=330K Cpar=.0047µ
V1 N007 0 17
C4 N010 N013 100p Rser=10K Cpar=10p
L1 N001 N002 750µ
R3 N001 N005 1Meg
C5 N005 0 4700p
D1 N002 OUT UPSC600
R4 0 N003 .2
V2 N001 N003 180
R5 N014 0 20K
R6 OUT N014 1Meg
XU1 0 N006 N013 N010 N004 N005 N011 N014 N008 N009 N012 N015 N018 N016 N007 N017 LT1248
R7 N014 N012 20K
R8 N004 N003 4K
C7 N018 0 .02µ Rser=5K
C8 N016 0 1000p
R9 N015 0 15K
R10 N008 N006 10K
R11 N010 0 4K
R12 N006 N003 1.6K
C9 N006 0 1000p
Rload OUT 0 2K
C1 OUT 0 18µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30m startup
.lib LT1248.sub
.backanno
.end
