* Z:\mnt\design.r\spice\examples\1249.asc
XU1 0 N015 N005 N009 N011 N010 N013 N016 LT1249
M§Q1 N007 N016 0 0 SUD40N10-25
R1 N012 N010 330K
C1 N011 N010 .0047µ
C2 N011 N012 .047µ
V1 N013 0 17
R2 N015 N014 10K
C3 N015 0 10p
C4 N014 0 100p
L1 N006 N007 750µ
R3 N006 N009 1Meg
C5 N009 0 470p
D1 N007 OUT D
C6 OUT 0 18µ
D2 N004 N006 1N4001
D3 N005 N008 1N4001
D4 N005 N004 1N4001
D5 N008 N006 1N4001
R4 N005 0 .2
V2 N004 N008 SINE(0 165 600)
R5 N010 0 20K
R6 OUT N010 1Meg
D6 N002 OUT2 1N4001
D7 0 N003 1N4001
D8 0 N002 1N4001
D9 N003 OUT2 1N4001
V3 N001 0 SINE(0 165 600) Rser=1
R7 OUT2 0 2K
C7 OUT2 0 36µ
L2 N001 0 5.
L3 N003 N002 25
Rload OUT 0 2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m
.ic V(out)=385
.ic V(out2)=358
.model 1N4001 D
K1 L2 L3 1
.lib LT1249.sub
.backanno
.end
