* Z:\mnt\design.r\spice\examples\1253.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 620
R2 N001 0 620
V3 IN 0 SINE(0 1 1Meg)
XU1 IN N001 +V -V N002 LT1253
R3 N002 N003 75
R4 OUT 0 75
T1 N003 0 OUT 0 Td=50n Z0=75
.tran 10u
.lib LTC.lib
.backanno
.end
