* Z:\mnt\design.r\spice\examples\1255.asc
V1 N001 0 5
V2 N006 0 PULSE(0 5 0 100n 100n 2.5m 5m)
R1 N001 N003 .036
M§Q1 N003 N005 N009 N009 Si9936DY
R2 N009 0 100
XU1 N002 N004 0 N006 N007 N001 N005 N003 LTC1255
R3 N001 N002 .036
M§Q2 N002 N004 N008 N008 Si9936DY
R4 N008 0 100
D1 N008 N004 BZX84C12L
D2 N009 N005 BZX84C12L
V3 N007 0 PULSE(0 5 0 100n 100n 2.5m 5m)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1255.sub
.backanno
.end
