* Z:\mnt\design.r\spice\examples\1300.asc
V1 IN 0 2.5
L1 IN N001 10µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 100µ Rser=0.02
XU1 0 IN N002 OUT N003 IN N001 0 LT1300
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1300.sub
.backanno
.end
