* Z:\mnt\design.r\spice\examples\1306.asc
L1 IN N002 10µ Rpar=1K
C1 N002 N001 1µ
R1 OUT N005 768K
XU1 N004 N005 OUT 0 N002 N001 IN IN LT1306
R2 N005 0 249K
R3 N004 N003 118K
C2 N003 0 680p
C3 N004 0 68p
V1 IN 0 3
C4 OUT 0 220µ
D1 IN N001 MBR0530L
Rload OUT 0 15
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1306.sub
.backanno
.end
